US07638515B2
4-Bromomethyl-1-fluoro-2-methoxybenzene
41.7 g (297.54 mmol) of 2-fluoro-5-methylanisole is refluxed overnight with 59.9 g (327.48 mmol) of N-bromosuccinimide and 145 mg of benzoyl peroxide in 945 ml of carbon tetrachloride. The reaction mixture is filtered [through] a glass-fiber filter, and after the solvent is spun off, the residue (72.85 g>100%) is incorporated in crude form into the next stage.

reactant | 2-fluoro-5-methylanisole | 297.54 mmol, 41.7 g | FC1=C(C=C(C=C1)C)OC | C8H9FO
reactant | N-bromosuccinimide | 327.48 mmol, 59.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 145 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 945 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-1-fluoro-2-methoxybenzene | BrCC1=CC(=C(C=C1)F)OC | C8H8BrFO
